US06967197B2
A mixture of tert-butyl 2-[(S)-7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate•(1R)-10 -camphorsulfonate (2.00 g), dimethylaminosulfonyl chloride (569 mg) and 2M aqueous sodium carbonate (10.6 ml) in dioxane (40 ml) was stirred for 2.5 days at room temperature. After the reaction solution was concentrated in vacuo, the mixture was diluted with water. The obtained suspension was stirred for 30 minutes under ice-cooling. The resulting solid was collected, washed with water and dried in vacuo to give tert-butyl 2-[(S)-7-(5-bromo-2-thienyl)-4-dimethylaminosulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate (1.449 g) as a white solid.

reactant | tert-butyl 2-[(S)-7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate•(1R)-10 -camphorsulfonate | 2.00 g | BrC1=CC=C(S1)[C@]1(CCNCCS1(=O)=O)CC(=O)OC(C)(C)C.[C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-]
reactant | dimethylaminosulfonyl chloride | 569 mg | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | sodium carbonate | 2M, 10.6 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 2-[(S)-7-(5-bromo-2-thienyl)-4-dimethylaminosulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate | 1.449 g | BrC1=CC=C(S1)[C@]1(CCN(CCS1(=O)=O)S(=O)(=O)N(C)C)CC(=O)OC(C)(C)C | C17H27BrN2O6S3
